US06326386B1
(2-{3-[(3-Carbamoyl-propyl)-cyclopentyl-carbamoyl]-5-chloro-phenoxy}ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 4-({3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-cyclopentyl-amino)-butyric acid (0.049 g), TBTU (0.058 g) and HOBt (0.024 g) in DMF (1 ml) was added DIPEA (0.031 ml) followed a 0.5M solution of ammonia in 1,4-dioxane (0.36 ml) after 15 min. The reaction mixture was stirred at room temperature for 43 h and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.040 g) was obtained as a colourless gum by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 4-({3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-cyclopentyl-amino)-butyric acid | 0.049 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)N(CCCC(=O)O)C2CCCC2)C=C(C1)Cl)C1=CC=NC=C1 | C28H36ClN3O6
reactant | TBTU | 0.058 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.024 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.031 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | N | H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 0.36 ml | O1CCOCC1 | C4H8O2
product | (2-{3-[(3-Carbamoyl-propyl)-cyclopentyl-carbamoyl]-5-chloro-phenoxy}ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.040 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C1CCCC1)CCCC(N)=O)=O)=O | C28H37ClN4O5
